US09085555B2
A. 1-Triisopropylsilanyl-5-triisopropylsilanyloxymethyl-1H-indole
To a solution of (1H-indol-5-yl)-methanol (1.00 g, 6.79 mmol) in THF (60 mL), cooled to 0° C., was added sodium hydride (60% in mineral oil; 1.36 g, 34.0 mmol) portionwise. After stirring for 5 min, triisopropylsilyl chloride (2.88 mL, 13.6 mmol) was added, and the resulting solution was stirred at RT for 2 h. The reaction was quenched by addition of a saturated aqueous NaHCO3 solution at 0° C. The aqueous layer was repeatedly extracted with EtOAc, and the combined organics were washed with H2O (1×) and brine (1×), dried (phase separator) and concentrated in vacuo. Purification by flash column chromatography on silica gel (eluent gradient: c-hexane to c-hexane/EtOAc 9:1) afforded the title compound as a white solid. TLC, Rf (c-hexane/EtOAc 9:1)=0.72. 1H-NMR (400 MHz, DMSO-d6): 5 ppm 7.61 (s, 1H), 7.49 (d, 1H), 7.32 (d, 1H), 6.93 (d, 1H), 6.57 (d, 1H), 4.92 (s, 2H), 1.60-1.85 (m, 3H), 1.01-1.12 (m, 39H).

reactant | (1H-indol-5-yl)-methanol | 6.79 mmol, 1.00 g | N1C=CC2=CC(=CC=C12)CO | C9H9NO
reactant | sodium hydride | 34.0 mmol, 1.36 g | [H-].[Na+]
reactant | triisopropylsilyl chloride | 13.6 mmol, 2.88 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-Triisopropylsilanyl-5-triisopropylsilanyloxymethyl-1H-indole | C(C)(C)[Si](N1C=CC2=CC(=CC=C12)CO[Si](C(C)C)(C(C)C)C(C)C)(C(C)C)C(C)C | C27H49NOSi2
